US08802673B2
To a stirred solution of (R)-tert-butyl 2-(2-fluoro-4-(5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)morpholine-4-carboxylate (300 mg) in acetonitrile (2 ml) and water (6 ml) was added trifluoroacetic acid (522 μl). The reaction mixture was then capped and the mixture was shaken at 80° C. for 16 h. The reaction mixture was then cooled to room temperature and poured into 4 M aq. NaOH and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (silica gel, CH2Cl2/MeOH/aq. NH3) to afford (R)—N-(3-fluoro-4-(morpholin-2-yl)phenyl)-5-(trifluoromethyl)pyrimidin-2-amine (171 mg, 74%) as an off-white solid. MS (ISP): 343.1 ([M+H]+).

reactant | (R)-tert-butyl 2-(2-fluoro-4-(5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)morpholine-4-carboxylate | 300 mg | FC1=C(C=CC(=C1)NC1=NC=C(C=N1)C(F)(F)F)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C20H22F4N4O3
reactant | trifluoroacetic acid | 522 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 4 M | [OH-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | 6 ml | O | H2O
product | (R)—N-(3-fluoro-4-(morpholin-2-yl)phenyl)-5-(trifluoromethyl)pyrimidin-2-amine | 171 mg, 74% | FC=1C=C(C=CC1[C@@H]1CNCCO1)NC1=NC=C(C=N1)C(F)(F)F | C15H14F4N4O
